US05210092
Phosphoryl chloride (747 μl) was added dropwise to N,N-dimethylformamide (7 ml) at 5° C. The mixture was stirred at 5° C. for 15 minutes and at ambient temperature for 15 minutes. To the mixture was added a solution of 2-chloro-1-(4-methylphenyl)pyrrole (1.2 g) in N,N-dimethylformamide (7 ml) at ambient temperature. The mixture was stirred at the same temperature for one hour and at 50° C. for 2.5 hours. After cooled to ambient temperature, the mixture was treated with saturated aqueous sodium bicarbonate solution. The separated oil was extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated in vacuo. The residue was column chromatographed on silica gel to yield 5-chloro-1-(4-methylphenyl)pyrrole-2-carbaldehyde (377 mg) as a solid.

reactant | Phosphoryl chloride | 747 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-chloro-1-(4-methylphenyl)pyrrole | 1.2 g | ClC=1N(C=CC1)C1=CC=C(C=C1)C | C11H10ClN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 5-chloro-1-(4-methylphenyl)pyrrole-2-carbaldehyde | 377 mg | ClC1=CC=C(N1C1=CC=C(C=C1)C)C=O | C12H10ClNO
